US07582636B2
6-{4-[2-(4-tert-Butyl-phenyl)-imidazo[1,2-a]pyridin-5-yl]-piperazin-1-ylmethyl}-quinoxaline:
2-(4-tert-Butyl-phenyl)-5-piperazin-1-yl-imidazo[1,2-a]pyridine (0.086 g, 0.258 mmol) was dissolved in DMSO (1 mL) and treated with 6-bromomethyl-quinoxaline (0.072 g, 0.323 mmol) followed by diisopropylethylamine (0.046 mL, 0.258 mmol). The mixture was stirred at room temperature overnight and diluted with ethyl acetate (10 mL). The solution was washed with water and saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield the crude product. Purification by flash silica gel chromatography (40-50% acetone/hexanes) gave 0.0362 g (29%) of the title compound. HPLC (Method B): r.t.=9.6 min., purity 100% at 210-370 nm, 96.0% at 238 nm. HRMS: calcd for C30H32N6+H+, 477.27612; found (ESI, [M+H]+), 477.2786.

reactant | 2-(4-tert-Butyl-phenyl)-5-piperazin-1-yl-imidazo[1,2-a]pyridine | 0.258 mmol, 0.086 g | C(C)(C)(C)C1=CC=C(C=C1)C=1N=C2N(C(=CC=C2)N2CCNCC2)C1 | C21H26N4
reactant | 6-bromomethyl-quinoxaline | 0.323 mmol, 0.072 g | BrCC=1C=C2N=CC=NC2=CC1 | C9H7BrN2
reactant | diisopropylethylamine | 0.258 mmol, 0.046 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-{4-[2-(4-tert-Butyl-phenyl)-imidazo[1,2-a]pyridin-5-yl]-piperazin-1-ylmethyl}-quinoxaline | 0.0362 g, 29% | C(C)(C)(C)C1=CC=C(C=C1)C=1N=C2N(C(=CC=C2)N2CCN(CC2)CC=2C=C3N=CC=NC3=CC2)C1 | C30H32N6
